datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:12])([H:10])[H:11],68.4502
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]([S:13][H:15])[H:14]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:14])[H:7])([H:5])[H:6].[S:12][S:13][H:15],25.9408
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19],-5.0208
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[H:9])[H:8])([H:6])([H:7])[H:10],117.5704
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:5],15.2716
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17][S:18][H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17](=[C:16]([H:19])[H:20])[S:18][H:21],-68.1992
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17])[H:6],-3.38904
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24][H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][O:23][O:24][H:25],58.19944
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:14])[H:15])([H:12])[H:13]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:14])[H:15])([H:12])[H:13])([H:3])[H:4],37.01810736
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:15]([H:16])([H:17])[H:18])[H:7],15.5645
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10]>>[C:0]([H:8])([H:9])[H:10].[c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17],460.93036
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:6],21.8823
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:18]([H:19])([H:20])[H:21])[H:10])([H:8])[H:9],11.0458
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])=[C:2]([H:10])[C:3]([H:11])([H:12])[C:4]([C:6]([H:15])([H:16])[H:17])[C:5]1([H:13])[H:14],97.6964
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15]#[C:14][H:19])([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:7])[H:6],30.7524
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[C:6]1[H:14])([H:7])([H:8])[H:9],34.9048
